US06924400B2
(a) 4-Bromo-2-ethylphenol
5.57 g (45 mmol) of 2-ethylphenol are placed in 250 ml of chloroform in a round-bottomed flask and under a stream of nitrogen. 43.4 g (90 mmol) of tetrabutylammonium tribromide are added portionwise. The medium is stirred for 1 hour at room temperature and is then hydrolysed with saturated aqueous sodium thiosulfate solution. The organic phase is washed with water, dried over magnesium sulfate, filtered and then evaporated. 9.1 g (100%) of the expected product are obtained in the form of a yellow oil.

reactant | 2-ethylphenol | 45 mmol, 5.57 g | C(C)C1=C(C=CC=C1)O | C8H10O
reactant | tetrabutylammonium tribromide | 90 mmol, 43.4 g | [Br-].[Br-].[Br-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-Bromo-2-ethylphenol | 9.1 g, 100% | BrC1=CC(=C(C=C1)O)CC | C8H9BrO
